Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2]1=[N:6][C@@:5]1([N+:4](=[N-:3])[H:9])[H:10])([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],27.99562775595021
[C:2]1([H:8])([H:9])[C@@:3]2([H:10])[C@:4]1([H:11])[C:5]([H:13])([H:14])[O:6]2.[O:1]([H:7])[H:12]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],58.20661890502651
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][H:13])[O:6][C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],46.0469987241869
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([N+:6]#[C:5][C:4]#[C-:3])([H:8])[H:9])[H:7],86.3471507558789
[C:1](=[N:2]/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])([H:7])[H:8].[H:9][H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],76.4996567766911
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:5](=[C:3](\[O:4][H:13])[H:12])[C:6][H:14])([H:10])[H:11])([H:7])([H:8])[H:9],63.445073102859794
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[C:6](#[C:7][H:10])[H:9].[N:1](=[C:2]=[O:5])[H:8].[N:3]#[N:4],70.1840915420058
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:6]1[C:5]([H:12])([H:13])[C:4]([H:10])([H:11])[N:3]([H:9])[C:2]([H:8])=[C:7]1[H:14],86.5758085077434
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:7](=[C:6])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],16.44694134114669
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:12])[C:3]([H:13])([H:14])[O:4][C@:5]([N:7]([H:15])[H:16])([H:11])[O:6]1)([H:8])([H:9])[H:10],103.92614051950301
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])[H:17])([H:15])[H:16])([H:13])([H:14])[H:18],103.778981162472
[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[C:6](=[O:7])([H:14])[H:15].[N:1]([C:2](=[O:3])[H:16])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],41.2412398168211
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([H:11])[C@:6]1([C:7][H:14])[H:10],86.69515672004991
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C:2]1=[N+:3]=[C-:4][N:5]([H:8])[N:6]1[H:9])[H:7],75.96308791936579
[C:1]([O:5][C@:6]1([H:15])[C:2]2([C:3]([H:11])([H:12])[C:4]2([H:13])[H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],69.81487675731879
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]#[C:4][C@@:5]1([O:6][H:7])[H:10],70.5408869118599
[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2](/[C:6](=[C:5]1\[O:3][C:4]1([H:8])[H:9])[H:10])[H:7],59.4032751771356
[C:1](/[C:2](=[C:4](/[C:5]#[C:6][H:14])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],44.75896188104221
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])=[C:4]([O:6][C:5]([H:11])([H:12])[H:13])[C:7]1([H:14])[H:15])[H:8],86.82137140677082
[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N-:1]=[C:2]=[C:3]([C:4]([C+:5]=[N:6][H:7])([H:9])[H:10])[H:8],82.9910405657385
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:7]([C:6](=[O+:5][C-:4]([H:10])[H:11])[H:12])[H:13])([H:8])[H:9],61.4836790387304
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](/[C:4](=[C:5](/[O:6][C:7]([H:19])([H:20])[H:21])[H:17])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:18],100.506854237556
[N:1]([C:2](=[O:3])[H:6])([H:4])[H:5]>>[N:1]([O+:3]=[C-:2][H:6])([H:4])[H:5],108.91910334630501
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C:7]1([H:15])[C-:4]([H:13])[O+:5]=[C:6]1[H:14])([H:8])([H:9])[H:10],40.865554308673296
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[O:4][C@:5]1([H:11])[C@@:6]23[H:12]>>[C:1](=[C:2]([C:6]1([H:12])[C-:3]([H:10])[O+:4]=[C:5]1[H:11])[H:9])([H:7])[H:8],40.1717505504246
